US09102642B2
To a solution of 2-(4-benzyloxy-2,6-dimethylphenyl)cyclohexane-1,3-dione (0.57 g, 0.0018 mol) in ethyl acetate (30 ml) and methanol (530 ml) is added 5% palladium on carbon (0.100 g), and the suspension is then stirred under 4 bar hydrogen pressure for 5 hours. The suspension is filtered through diatomaceous earth and the filtrate evaporated under reduced pressure to afford 2-(4-hydroxy-2,6-dimethylphenyl)cyclohexane-1,3-dione as a grey solid.

reactant | 2-(4-benzyloxy-2,6-dimethylphenyl)cyclohexane-1,3-dione | 0.0018 mol, 0.57 g | C(C1=CC=CC=C1)OC1=CC(=C(C(=C1)C)C1C(CCCC1=O)=O)C | C21H22O3
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 530 ml | CO | CH4O
catalyst | palladium on carbon | 0.100 g | [Pd] | Pd
product | 2-(4-hydroxy-2,6-dimethylphenyl)cyclohexane-1,3-dione | OC1=CC(=C(C(=C1)C)C1C(CCCC1=O)=O)C | C14H16O3
